US06492562B1
C. Preparation of (4S)-N-[(2S,3R)-2-Methyl-3-hydroxy-3-(3-pyridyl)propanoyl]-4-benzyl-2-oxazolidinone
Prepared from (4S)-N-propionyl-4-benzyl-2-oxazolidinone and pyridine-3-carboxaldehyde according to the procedure described in Example 1, paragraph A. 13C-NMR (100 MHz, CDCl3): δ 176.40, 152.83, 148.74, 147.85, 136.78, 134.80, 134.04, 129.34, 128.95, 127.45, 123.21, 109.75, 71.46, 66.23, 55.05, 44.28, 37.70, 10.64.

reactant | (4S)-N-propionyl-4-benzyl-2-oxazolidinone | C(CC)(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C13H15NO3
reactant | pyridine-3-carboxaldehyde | N1=CC(=CC=C1)C=O | C6H5NO
product | (4S)-N-[(2S,3R)-2-Methyl-3-hydroxy-3-(3-pyridyl)propanoyl]-4-benzyl-2-oxazolidinone | C[C@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)[C@H](C=1C=NC=CC1)O | C19H20N2O4
